US08791139B2
8.65 g (38.5 mmol) of 3-chloro-2-(3-nitro-1H-pyrazol-1-yl)pyridine were dissolved in 196 ml of tetrahydrofuran and, under argon, cooled to −78° C. 21.4 mL (42.7 mmol) of a 2 molar solution of lithium diisopropylamide in THF were then added dropwise. The mixture was allowed to stir for 1 hour at −78° C., and a total of 1500 g of powdered dry ice were then added a little at a time. The mixture was stirred at −78° C. until the evolution of carbon dioxide had ceased and then allowed to warm to room temperature. Initially, 679 ml of water were then added, and the pH was subsequently adjusted to 11 using 1N sodium hydroxide solution. The aqueous phase was extracted repeatedly with ethyl acetate. The combined organic phases were dried over magnesium sulphate and the solvent was distilled off under reduced pressure, which gave 5.0 g (47% of theory) of 1-(3-chloropyridin-2-yl)-3-nitro-1H-pyrazole-5-carboxylic acid. log P: 0.90; MH+: 269.0; 1H-NMR (400 MHz, CD3CN, δ, ppm): 7.77 (m, 2H), 8.33 (m, 1H), 8.62 (m, 1H).

reactant | 3-chloro-2-(3-nitro-1H-pyrazol-1-yl)pyridine | 38.5 mmol, 8.65 g | ClC=1C(=NC=CC1)N1N=C(C=C1)[N+](=O)[O-] | C8H5ClN4O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | dry ice | 1500 g | C(=O)=O | CO2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 196 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 679 ml | O | H2O
product | 1-(3-chloropyridin-2-yl)-3-nitro-1H-pyrazole-5-carboxylic acid | 5.0 g, 47% | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)O)[N+](=O)[O-] | C9H5ClN4O4
